US04311698
A solution of 4.2 g (15 mmol) of N-carbobenzoxy-D-glutamine and 50 ml of N,N-dimethylacetamide is stirred at -12° and 1.65 ml (15 mmol) of N-methylmorpholine and 1.2 ml (15 mmol) of methyl chloroformate are added. The mixture is stirred at -12° for 15 min. A suspension of 2.3 g (10 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid is stirred in 75 ml dichloromethane at room temperature and is silylated with 3.8 ml (30 mmol) of chlorotrimethylsilane and 4.2 ml (30 mmol) of triethylamine. The solution of the silylated material is cooled to 0°-5° and is then added to the solution of the above mixed anhydride. The reaction mixture is stirred at -7° for 1 hr, then at 0°-5° for 4 hrs and at room temperature for 16 hrs and 30 ml of isopropanol is added. The bulk of the solvents is removed at reduced pressure and the residue is diluted with 250 ml cold water. The precipitate is collected, washed with cold water and dried to give 4.4 g of 6-[4-(N-carbobenzoxy-D-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid as a yellow solid; mp 250°-252° dec; [α]D23 -13.3° (cl, DMSO).

reactant | N-carbobenzoxy-D-glutamine | 15 mmol, 4.2 g | C(=O)(OCC1=CC=CC=C1)N[C@H](CCC(N)=O)C(=O)O | C13H16N2O5
reactant | N-methylmorpholine | 15 mmol, 1.65 ml | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 15 mmol, 1.2 ml | ClC(=O)OC | C2H3ClO2
reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 10 mmol, 2.3 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | chlorotrimethylsilane | 30 mmol, 3.8 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 6-[4-(N-carbobenzoxy-D-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 4.4 g | C(=O)(OCC1=CC=CC=C1)N[C@H](CCC(N)=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C25H24N4O7
